US09399623B2
6-Chloro-2-((R)-3-fluoro-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (1-hydroxy-3-trifluoromethyl-cyclohexylmethyl)-amide (146)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (1-hydroxy-3-trifluoromethyl-cyclohexylmethyl)-amide, DIPEA and (R)-3-fluoro-pyrrolidine. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1H), 7.85 (m, 1H), 7.58 (2H), 7.05 (1H), 5.43-5.56 (d, 1H), 4.72 (s, 1H), 3.80-3.58 (m, 3H), 3.26 (m, 2H), 2.59 (m, 1H), 2.22 (m, 1H), 2.08 (1H), 1.85-1.72 (m, 2H), 1.50 (m, 1H), 1.33-1.20 (m, 3H). m/z: 474 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (1-hydroxy-3-trifluoromethyl-cyclohexylmethyl)-amide | OC1(CC(CCC1)C(F)(F)F)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl | C18H17Cl2F3N2O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-fluoro-pyrrolidine | F[C@H]1CNCC1 | C4H8FN
product | 6-Chloro-2-((R)-3-fluoro-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (1-hydroxy-3-trifluoromethyl-cyclohexylmethyl)-amide | OC1(CC(CCC1)C(F)(F)F)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1C[C@@H](CC1)F | C22H24ClF4N3O2
